US07875732B2
Preparation of N-ethoxymethyl-N-methylpyrrolidinium hexafluoroarsenate
In 40.0 g of water was dissolved 13.12 g of N-ethoxymethyl-N-methylpyrrolidinium chloride and thereto was added 14.30 g of lithium hexafluoroarsenate (reagent, Wako Pure Chemical Ind. Ltd.). The mixture was reacted at room temperature for 1 hour, and 30.00 g of chloroform was added to the mixture for extraction. The extract was washed with 15.0 g ml of water 15 times, and thereafter dried, giving 11.70 g of the desired product in the form of a white solid. The product was checked for 1H-NMR as in Example 1.

reactant | N-ethoxymethyl-N-methylpyrrolidinium chloride | 13.12 g | [Cl-].C(C)OC[N+]1(CCCC1)C
reactant | lithium hexafluoroarsenate | 14.30 g | F[As-](F)(F)(F)(F)F.[Li+]
reactant | chloroform | 30.00 g | C(Cl)(Cl)Cl | CHCl3
solvent | water | 40.0 g | O | H2O
product | N-ethoxymethyl-N-methylpyrrolidinium hexafluoroarsenate | 11.70 g | F[As-](F)(F)(F)(F)F.C(C)OC[N+]1(CCCC1)C | InChI=1S/C8H18NO.AsF6/c1-3-10-8-9(2)6-4-5-7-9;2-1(3,4,5,6)7/h3-8H2,1-2H3;/q+1;-1
